### PR TITLE
[Merged by Bors] - feat(FieldTheory/PurelyInseparable/Tower): tower law for inseparable degree

### PR DESCRIPTION
**Pull request by acmepjz**
Use linearly disjoint to prove the tower law for inseparable degree. Stated a linearly disjoint result for separable extension with purely inseparable extension. Golf the existing proof.

Also add some necessary result in linearly disjoint file.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

Discussion: [#Is there code for X? > Separability degree? @ 💬](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Separability.20degree.3F/near/517497855)

### CODE REVIEW

File: Mathlib/FieldTheory/LinearDisjoint.lean [hunk 1]
```diff
@@ -365,6 +365,79 @@ theorem of_finrank_sup [FiniteDimensional F A] [FiniteDimensional F B]
...
+  simp_rw [Algebra.smul_def]
+  rfl
+
+/-- If `A` and `L` are linearly disjoint, one of them is algebraic, then `[L(A) : A] = [L : F]`.
+Note that in Lean `L(A)` is not naturally an `A`-algebra,
+so this result is stated in a cumbersome way. -/
+theorem lift_adjoin_rank_eq_lift_rank_right_of_isAlgebraic (H : A.LinearDisjoint L)
+    (halg : Algebra.IsAlgebraic F A ∨ Algebra.IsAlgebraic F L) :
+    Cardinal.lift.{w} (Module.rank A (extendScalars
+      (show A ≤ (adjoin L (A : Set E)).restrictScalars F from subset_adjoin L (A : Set E)))) =
```
Comment (erdOne) [inline Mathlib/FieldTheory/LinearDisjoint.lean:395]: Is `adjoin L (A : Set E)` really the better spelling here instead of `L ⊔ A`?

**Review by erdOne — COMMENTED** [review]
Can you specialize some of the results (which you think would be used elsewhere, perhaps all) mentioning `Algebra.IsAlgebraic F A ∨ Algebra.IsAlgebraic F L` to `isAlgebraic_left` and `isAlgebraic_right`? Thanks!

File: Mathlib/FieldTheory/LinearDisjoint.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/LinearDisjoint.lean:395]: `L ⊔ A` doesn't typecheck because L is not an intermediate field ... it's only assumed that E/L/F is a tower.

File: Mathlib/FieldTheory/LinearDisjoint.lean [hunk 2]
```diff
@@ -365,6 +365,79 @@ theorem of_finrank_sup [FiniteDimensional F A] [FiniteDimensional F B]
...
+    exact ⟨fun ⟨y, h⟩ ↦ ⟨x, ⟨y, h⟩, rfl⟩, fun ⟨a, ⟨y, h1⟩, h2⟩ ↦ ⟨y, h1.trans h2⟩⟩
+  refine rank_eq_of_equiv_equiv i (RingEquiv.subsemiringCongr heq).toAddEquiv
+    i.bijective fun a ⟨x, hx⟩ ↦ ?_
+  ext
+  simp_rw [Algebra.smul_def]
+  rfl
+
+/-- If `A` and `L` are linearly disjoint, one of them is algebraic, then `[L(A) : A] = [L : F]`.
+Note that in Lean `L(A)` is not naturally an `A`-algebra,
+so this result is stated in a cumbersome way. -/
```
Comment (erdOne) [inline Mathlib/FieldTheory/LinearDisjoint.lean:391]: Can you mention what `F` is in the docstring (or perhaps the diagram of all the fields in play)? (And also the other docstrings)

**Comment by acmepjz** [comment]
> Can you specialize some of the results (which you think would be used elsewhere, perhaps all) mentioning `Algebra.IsAlgebraic F A ∨ Algebra.IsAlgebraic F L` to `isAlgebraic_left` and `isAlgebraic_right`? Thanks!

Done.

File: Mathlib/FieldTheory/LinearDisjoint.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/LinearDisjoint.lean:397]: Wow, I think that's a huge work, every docstrings in this file need to be modified. I think user should be referred to the docstring of the definition of `IntermediateField.LinearDisjoint`, or perhaps the module docstring in the beginning of this file, and there are detailed explanation.

File: Mathlib/FieldTheory/PurelyInseparable/Tower.lean [hunk 3]
```diff
@@ -3,19 +3,24 @@ Copyright (c) 2024 Jz Pan. All rights reserved.
...
+This file contains results related to `Field.sepDegree`, `Field.insepDegree` and the tower law.
 
 ## Main results
 
 - `Field.lift_sepDegree_mul_lift_sepDegree_of_isAlgebraic`: the separable degrees satisfy the
   tower law: $[E:F]_s [K:E]_s = [K:F]_s$.
 
+- `Field.lift_insepDegree_mul_lift_insepDegree_of_isAlgebraic`:
+  `Field.finInsepDegree_mul_finInsepDegree_of_isAlgebraic`: the inseparable degrees satisfy the
+  tower law: $[E:F]_i [K:E]_i = [K:F]_i$.
```
Comment (alreadydone) [inline Mathlib/FieldTheory/PurelyInseparable/Tower.lean:22]: Might be better to switch to `ₛ` and `ᵢ` throughout the file?

File: Mathlib/FieldTheory/LinearDisjoint.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/LinearDisjoint.lean:403]: I should say this particular result is for advanced users only. Regular user should use `adjoin_rank_eq_rank_left_of_isAlgebraic` (`[L(A) : L] = [A : F]`) and `lift_rank_right_mul_lift_adjoin_rank_eq_of_isAlgebraic` (`[L : F] * [E : L(A)] = [E : A]`) and which are the downstream applications in this PR.

File: Mathlib/FieldTheory/PurelyInseparable/Tower.lean [hunk 4]
```diff
@@ -90,6 +88,19 @@ theorem LinearIndependent.map_of_isPurelyInseparable_of_isSeparable [IsPurelyIns
...
+if `S` is an intermediate field of `K / F` which is separable over `F`, then `S` and `E` are
+linearly disjoint over `F`. -/
+theorem IntermediateField.linearDisjoint_of_isPurelyInseparable_of_isSeparable
+    [IsPurelyInseparable F E] (S : IntermediateField F K) [Algebra.IsSeparable F S] :
+    S.LinearDisjoint E := by
+  obtain ⟨ι, ⟨b⟩⟩ := Basis.exists_basis F S
+  exact .of_basis_left b <| b.linearIndependent.map' S.val.toLinearMap
+    (LinearMap.ker_eq_bot_of_injective S.val.injective)
+    |>.map_of_isPurelyInseparable_of_isSeparable E (fun i ↦
+      by simpa only [IsSeparable, minpoly_eq] using Algebra.IsSeparable.isSeparable F (b i))
```
Comment (alreadydone) [inline Mathlib/FieldTheory/PurelyInseparable/Tower.lean:102]:
```suggestion
    S.LinearDisjoint E :=
  have ⟨ι, ⟨b⟩⟩ := Basis.exists_basis F S
  .of_basis_left b <| b.linearIndependent.map' S.val.toLinearMap
    (LinearMap.ker_eq_bot_of_injective S.val.injective)
    |>.map_of_isPurelyInseparable_of_isSeparable E fun i ↦ by 
      simpa only [IsSeparable, minpoly_eq] using Algebra.IsSeparable.isSeparable F (b i)
```

File: Mathlib/FieldTheory/LinearDisjoint.lean [hunk 5]
```diff
@@ -365,6 +365,139 @@ theorem of_finrank_sup [FiniteDimensional F A] [FiniteDimensional F B]
     (H : finrank F ↥(A ⊔ B) = finrank F A * finrank F B) : A.LinearDisjoint B :=
   linearDisjoint_iff'.2 <| .of_finrank_sup_of_free (by rwa [← sup_toSubalgebra_of_left])
 
+/-- If `A` and `L` are linearly disjoint, one of them is algebraic, then `[L(A) : L] = [A : F]`. -/
```
Comment (alreadydone) [inline Mathlib/FieldTheory/LinearDisjoint.lean:368]: I think this is currently unused; would you prove `[E : L] = [E : L[A]] * [A : F]` too?

**Review by alreadydone — APPROVED** [review]
Thanks 🎉

File: Mathlib/FieldTheory/LinearDisjoint.lean (hunk 5 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/LinearDisjoint.lean:368]: The `adjoin_rank_eq_rank_left_of_isAlgebraic` is used in the golfed proof of `sepDegree_eq_of_isPurelyInseparable_of_isSeparable`. As the `[E : L] = [E : L(A)] * [A : F]` it's just `rank_mul_rank` followed by `rw` (in this case `E / L(A) / L` is indeed a field extension tower in Lean, unlike the `E / L(A) / A`).

File: Mathlib/FieldTheory/PurelyInseparable/Tower.lean (hunk 3 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable/Tower.lean:22]: This is in `$` so it's rendered as LaTeX. If use `ₛ` and `ᵢ` then I should use ` instead. These characters look too small IMHO.

File: Mathlib/FieldTheory/LinearDisjoint.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/LinearDisjoint.lean:399]: I think it should say
```suggestion
/-- If `A` and `L` are linearly disjoint over `F`, one of them is algebraic,
then `[L(A) : A] = [L : F]`.
Note that in Lean `L(A)` is not naturally an `A`-algebra,
so this result is stated in a cumbersome way. -/
```
(same for `adjoin_rank_eq_rank_left_of_isAlgebraic`)

**Review by alreadydone — APPROVED** [review]
Thanks 🎉 
maintainer delegate

File: Mathlib/FieldTheory/LinearDisjoint.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/LinearDisjoint.lean]: Done. Is it OK?

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
